US08067445B2
Step 3: (5-Bromo-2-iodo-benzyl)-ethyl-carbamic acid tert-butyl ester
(5-Bromo-2-iodo-benzyl)-ethyl-amine (4.05 g, 11.9 mmol) in CH2Cl2 (30 mL) was treated with di-tert-butyl dicarbonate (3.12 g, 14.3 mmol) at room temperature overnight. The mixture was diluted with CH2Cl2 and washed with H2O, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | (5-Bromo-2-iodo-benzyl)-ethyl-amine | 11.9 mmol, 4.05 g | BrC=1C=CC(=C(CNCC)C1)I | C9H11BrIN
reactant | di-tert-butyl dicarbonate | 14.3 mmol, 3.12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (5-Bromo-2-iodo-benzyl)-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)CC1=C(C=CC(=C1)Br)I)=O | C14H19BrINO2
